US07667041B2
Synthesis of 4-(2-chloro-1H-imidazol-1-yl)-3-methoxybenzaldehyde
To a THF (40 mL) solution of 2-chloro-1-(4-[1,3]dioxolan-2-yl -2-methoxyphenyl)-1H-imidazole (3.19 g), 5N hydrochloric acid (15 mL) was added and the reaction solution was agitated for 2 hours. The reaction mixture was made basic with 5N sodium hydroxide aqueous solution, ethyl acetate was added and the organic layer was partitioned. The organic layer obtained was washed with a saturated saline solution, dried with anhydrous magnesium sulfate and concentrated under reduced pressure to yield 2.69 g of the title compound. The physical properties of the compound are as follows.

reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | 2-chloro-1-(4-[1,3]dioxolan-2-yl -2-methoxyphenyl)-1H-imidazole | 3.19 g | ClC=1N(C=CN1)C1=C(C=C(C=C1)C1OCCO1)OC | C13H13ClN2O3
reactant | hydrochloric acid | 5N, 15 mL | Cl | ClH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-chloro-1H-imidazol-1-yl)-3-methoxybenzaldehyde | 2.69 g | ClC=1N(C=CN1)C1=C(C=C(C=O)C=C1)OC | C11H9ClN2O2
